US07576128B2
To a solution of 2,5-hexanediol (28 mg, 0.240 mmol) in tetrahydrofuran was added an excess of potassium butoxide. The admixture was stirred, briefly, and 2-chloro-4-fluoro-benzonitrile (37 mg, 0.240 mmol) was added. The admixture was stirred at room temperature for 72 hours. Purification by reverse phase high pressure chromatography eluting with a solvent gradient (15% of 0.1% formic acid/CH3CN in 0.1% formic acid/water to 100% of 0.1% formic acid/water) provided 28.4 mg of 2-chloro-4-(4-hydroxy-1-methyl-pentyloxy)-benzonitrile. 1H NMR (CDCl3) δ 7.50 (d, 1H), 6.95 (m, 1H), 6.79 (br d, 1H), 4.43 (m, 1H), 3.79 (m, 1H), 1.89-1.40 (m, 4H), 1.30 (d, 3H), 1.17 (d, 3H); MS m/z 253.

reactant | 2,5-hexanediol | 0.240 mmol, 28 mg | CC(CCC(C)O)O | C6H14O2
reactant | potassium butoxide | [O-]CCCC.[K+]
reactant | 2-chloro-4-fluoro-benzonitrile | 0.240 mmol, 37 mg | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-4-(4-hydroxy-1-methyl-pentyloxy)-benzonitrile | 28.4 mg | ClC1=C(C#N)C=CC(=C1)OC(CCC(C)O)C | C13H16ClNO2
